US04005103
The procedure of Example XXXV using 15 g of 2-cyclopropyl-4-(p-chlorophenyl)-5-methyl-pyrrolidine and 8.8 g of bromoethanol gives 6.6 g of N-hydroxyethyl-2-cyclopropyl-4-(p-chlorophenyl)-5-methylpyrrolidine hydrochloride as white crystals after recrystallisation from ethyl acetate -- acetone (50:50). Melting point = 175°-180° C.

reactant | 2-cyclopropyl-4-(p-chlorophenyl)-5-methyl-pyrrolidine | 15 g | C1(CC1)C1NC(C(C1)C1=CC=C(C=C1)Cl)C | C14H18ClN
reactant | bromoethanol | 8.8 g | BrC(C)O | C2H5BrO
product | N-hydroxyethyl-2-cyclopropyl-4-(p-chlorophenyl)-5-methylpyrrolidine hydrochloride | 6.6 g | Cl.OCCN1C(CC(C1C)C1=CC=C(C=C1)Cl)C1CC1 | InChI=1S/C16H22ClNO.ClH/c1-11-15(12-4-6-14(17)7-5-12)10-16(13-2-3-13)18(11)8-9-19;/h4-7,11,13,15-16,19H,2-3,8-10H2,1H3;1H
